US06969728B2
Step 1) Preparation of 3-Benzylpentane-2,4-dione.
To a solution of sodium ethoxide (freshly prepared from sodium hydride (0.474 g, 19.8 mmol) and anhydrous ethanol (50 mL)) was added pentane-2,4-dione (6.00 g, 60.0 mmol). The resulting mixture was heated to 50° C. while a solution of benzyl bromide (3.42 g, 20 mmol) in ethanol (20 mL) was added over 30 minutes. The reaction was then heated to reflux. After 2 hours, the mixture was concentrated, and the residue was dissolved in ethyl acetate, washed three times with water, once with brine, dried (magnesium sulfate) and concentrated to afford an oil. Flash chromatography over silica (ethyl acetate/dichloromethane) afforded 3.13 g (82%) of a colorless oil. The proton spectrum showed the product exists as equal parts of the keto and enol tautomers: 1H NMR (CDCl3) δ 16.81 (s, 0.5H), 7.13-7.32 (m, 5H), 4.00 (t, J=7.6 Hz, 0.5H), 3.65 (s, 1H), 3.14 (d, J=7.6 Hz, 0.5H), 2.06-2.13 (m, 6H) ppm.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium hydride | 19.8 mmol, 0.474 g | [H-].[Na+]
reactant | pentane-2,4-dione | 60.0 mmol, 6.00 g | CC(CC(C)=O)=O | C5H8O2
reactant | benzyl bromide | 20 mmol, 3.42 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 3-Benzylpentane-2,4-dione | 3.13 g, 82% | C(C1=CC=CC=C1)C(C(C)=O)C(C)=O | C12H14O2
